US08957066B2
(E)-tert-butyl (5-fluoro-2-(3-(1-methyl-1H-pyrazol-4-yl)acrylamido)phenyl)carbamate (0.15 g, 0.42 mmol) was dissolved in dioxane (4 mL). A 4M solution of HCl in dioxane (4 mL) was added and the mixture was stirred at room temperature for 3 h. Salt precipitation was observed. The reaction mixture was then diluted with diethyl ether (20 mL) and the crude hydrochloride salt was filtered. It was stirred with saturated sodium bicarbonate (excess) and filtered. The precipitate was washed with water and vacuum dried. (E)-N-(2-amino-4-fluorophenyl)-3-(1-methyl-1H-pyrazol-4-yl)acrylamide (73 mg) was obtained as an off-white solid. 1H NMR (CD3OD) δ: 7.88 (s, 1H), 7.77 (s, 1H), 7.53 (d, J=15.7 Hz, 1H), 7.12 (dd, J=8.5, 5.9 Hz, 1H), 6.54 (d, J=15.9 Hz, 1H), 6.55 (dd, J=10.5, 3.0 Hz, 1H), 6.39 (td, J=8.5, 2.7 Hz, 1H), 3.90 (s, 4H); ES+(M+H)+261.

reactant | (E)-tert-butyl (5-fluoro-2-(3-(1-methyl-1H-pyrazol-4-yl)acrylamido)phenyl)carbamate | 0.42 mmol, 0.15 g | FC=1C=CC(=C(C1)NC(OC(C)(C)C)=O)NC(\C=C\C=1C=NN(C1)C)=O | C18H21FN4O3
reactant | HCl | Cl | ClH
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | (E)-N-(2-amino-4-fluorophenyl)-3-(1-methyl-1H-pyrazol-4-yl)acrylamide | 73 mg | NC1=C(C=CC(=C1)F)NC(\C=C\C=1C=NN(C1)C)=O | C13H13FN4O
